US04690925
A two-fold stoichiometric excess of 3% hydrogen chloride in methanol is added to a solution of 1.0 g. of methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)CC(=O)OC | C23H30N4O5
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate hydrochloride | Cl.C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)CC(=O)OC | InChI=1S/C23H30N4O5.ClH/c1-31-22(30)15-27(17-6-3-2-4-7-17)21(29)8-5-11-32-18-9-10-19-16(12-18)13-26-14-20(28)25-23(26)24-19;/h9-10,12,17H,2-8,11,13-15H2,1H3,(H,24,25,28);1H
